US07365085B2
d) {3-[4-(Toluene-4-sulfonyloxy)butyl]phenyl}acetic acid methyl ester
A solution of {3-[4-hydroxybutyl]phenyl)acetic acid methyl ester (300 mg, 1.35 mmol) and p-toluenesulfonyl chloride (513 mg, 2.7 mmol) in pyridine (5 ml) was stirred at RT for 18 hr. The reaction was diluted with water (50 ml) and extracted with diethyl ether. The organic extracts were washed with water and cold 1N HCl, dried, and the solvent evaporated to give the title compound as an oil (322 mg, 63%). MS (ESI) 377.3 (M+H)+.

reactant | {3-[4-hydroxybutyl]phenyl)acetic acid methyl ester | 1.35 mmol, 300 mg | COC(CC1=CC(=CC=C1)CCCCO)=O | C13H18O3
reactant | p-toluenesulfonyl chloride | 2.7 mmol, 513 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 50 ml | O | H2O
product | {3-[4-(Toluene-4-sulfonyloxy)butyl]phenyl}acetic acid methyl ester | 322 mg, 63% | COC(CC1=CC(=CC=C1)CCCCOS(=O)(=O)C1=CC=C(C=C1)C)=O | C20H24O5S
